US06100429
Preparation of 3-aminophenylacetylene dimethylcarbinol:
A mixture of 3-bromoaniline (1.72 g, 10 mmol), 2-methyl-3-butyn-2-ol (1.1 g, 13 mmol), 3-nitrobenzaldehyde (0.5 g, 3.3 mmol), triethylamine (5 g), dichlorobis(triphenyl-phosphine)palladium (15 mg) and triphenylphosphine (80 mg) was deaerated by bubbling nitrogen. The reaction mixture was heated to 80° C. and treated with CuI (10 mg). After 7 hr at reflux thin-layer chromatography showed nearly complete conversion of the 3-bromoaniline to a mixture of 3-aminophenylacetylene dimethylcarbinol and N-(3-nitrobenzylidene) aminophenyl acetylene dimethylcarbinol.

reactant | 3-bromoaniline | 10 mmol, 1.72 g | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | 2-methyl-3-butyn-2-ol | 13 mmol, 1.1 g | CC(C)(C#C)O | C5H8O
reactant | 3-nitrobenzaldehyde | 3.3 mmol, 0.5 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | triphenylphosphine | 80 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
catalyst | dichlorobis(triphenyl-phosphine)palladium | 15 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | triethylamine | 5 g | C(C)N(CC)CC | C6H15N
product | 3-aminophenylacetylene dimethylcarbinol | CC(O)C.NC=1C=C(C=CC1)C#C | InChI=1S/C8H7N.C3H8O/c1-2-7-4-3-5-8(9)6-7;1-3(2)4/h1,3-6H,9H2;3-4H,1-2H3
